US09447036B2
Magnesium chloride (dry, 3.16 g, 33.2 mmol) was put in a flask under a nitrogen atmosphere and acetonitrile (100 mL) was added. The mixture was stirred for five minutes at room temperature. Diethyl [(phenylsulfonyl)methyl]phosphonate (10.0 g, 89% purity, 30.4 mmol) was added. After 5 minutes stirring the magnesium chloride was nearly dissolved. Triethylamine (5.01 mL, 35.9 mmol) was added and after 10 minutes at room temperature a yellow solution was obtained. Then 1-(3,5-dichlorophenyl)-2,2,2-trifluoroethanone (6.89 mg, 98% purity, 27.7 mmol) was added. After stirring for one hour additional magnesium chloride (0.1 eq.) and triethylamine (0.1 eq.) were added and the mixture was stirred for additional 30 minutes. Then, additional triethylamine (0.1 eq.) was added. Water (100 mL) and ethyl acetate (200 mL) were added and the phases were separated. After extracting the aqueous phase twice with ethyl acetate (100 mL) the combined organic phases were washed three times with water (100 mL), three times with saturated sodium bicarbonate solution (100 mL), dried over sodium sulfate, filtered and the solvents evaporated. The yellow oil was recrystallized from n-heptane. 2-(3,5-dichlorophenyl)-3,3,3-trifluoroprop-1-en-1-yl phenyl sulfone was obtained (10.5 g, 97% purity, 98% yield, E/Z (not assigned)=64/36).

reactant | Magnesium chloride | 33.2 mmol, 3.16 g | [Cl-].[Mg+2].[Cl-]
reactant | Diethyl [(phenylsulfonyl)methyl]phosphonate | 30.4 mmol, 10.0 g | C1(=CC=CC=C1)S(=O)(=O)CP(OCC)(OCC)=O | C11H17O5PS
reactant | Triethylamine | 35.9 mmol, 5.01 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3,5-dichlorophenyl)-2,2,2-trifluoroethanone | 27.7 mmol, 6.89 mg | ClC=1C=C(C=C(C1)Cl)C(C(F)(F)F)=O | C8H3Cl2F3O
reactant | magnesium chloride | 0.1 eq. | [Cl-].[Mg+2].[Cl-]
reactant | triethylamine | 0.1 eq. | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.1 eq. | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 100 mL | O | H2O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-(3,5-dichlorophenyl)-3,3,3-trifluoroprop-1-en-1-yl phenyl sulfone | 98% yield | C1(=CC=CC=C1)S(=O)(=O)C=C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C15H9Cl2F3O2S
